US07125990B2
2-Bromo-5-trifluoromethyl-3-[(2,4,6-trimethyl-phenylcarbamoyl)-methyl]-3H-imidazole-4-carboxylic acid ethyl ester, Scheme 5: (V)
To a solution of 2-bromo-5-trifluoromethyl-3H-imidazole-4-carboxylic acid ethyl ester (3.00 g, 10.45 mmol) and 2-bromo-N-(2,4,6-trimethyl-phenyl)-acetamide (2.94 g, 11.50 mmol) in a mixture of toluene (16 mL) and acetone (8 mL) was added DBU (1.72 mL, 11.50 mmol). The resulting solution was stirred at room temperature for 5 days. Methanol (10 mL) was added to dissolve the precipitate formed, followed by the addition of silica gel (25 g). The solvent was removed under reduced pressure to dryness and the residue was applied to a silica gel-packed column. The isolation of the product was achieved by column chromatography (hexanes-ethyl acetate 4:1). Yield—4.25 g (88%). LC/MS: tR=1.62 min., MS: [M+H]=462.

reactant | 2-bromo-5-trifluoromethyl-3H-imidazole-4-carboxylic acid ethyl ester | 10.45 mmol, 3.00 g | C(C)OC(=O)C=1NC(=NC1C(F)(F)F)Br | C7H6BrF3N2O2
reactant | 2-bromo-N-(2,4,6-trimethyl-phenyl)-acetamide | 11.50 mmol, 2.94 g | BrCC(=O)NC1=C(C=C(C=C1C)C)C | C11H14BrNO
reactant | DBU | 11.50 mmol, 1.72 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | Methanol | 10 mL | CO | CH4O
solvent | toluene | 16 mL | C1(=CC=CC=C1)C | C7H8
solvent | acetone | 8 mL | CC(=O)C | C3H6O
product | 2-Bromo-5-trifluoromethyl-3-[(2,4,6-trimethyl-phenylcarbamoyl)-methyl]-3H-imidazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C(=NC1C(F)(F)F)Br)CC(NC1=C(C=C(C=C1C)C)C)=O | C18H19BrF3N3O3
